*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/1.00e-04[uF]/100[V]
* Murata P/N :GCM2165C2A101JA16
* Property : C = 1.00e-04[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[MHz]-9[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM2165C2A101JA16 Port1 Port2
C01 Port1 N01 1.00e-10
R01 Port1 N01 1.00e+11
L02 N01 N02 7.38e-11
R03 N02 N03 1.10e-01
L04 N03 N04 1.44e-11
R04 N03 N04 3.14e-01
C05 N04 N05 5.91e-10
L05 N04 N05 9.55e-12
R05 N04 N05 7.15e-01
C06 N05 N06 7.24e-11
L06 N05 N06 2.37e-11
R06 N05 N06 1.71e+00
C07 N06 N07 2.65e-12
L07 N06 N07 7.17e-11
R07 N06 N07 9.05e+00
C08 N07 Port2 6.39e-13
L08 N07 Port2 2.96e-10
R08 N07 Port2 1.00e+05
.ENDS GCM2165C2A101JA16
